Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L foot infection
 
Major Surgical or Invasive Procedure:
___: L foot I&D packed open
___: L debridement and closure 

 
History of Present Illness:
This is a ___ with PMHx DM, well controlled with last HbA1c 6.2 
in ___ who presents to the ED with Right foot 
cellulitis. Patient states Symptoms began on ___, had bandage 
on for a day, and when took off the bandage his foot worsened.  
He saw his PCP, ___ who is in the Atrius system today who 
took a culture of wound and sent the patient to ___ for 
evaluation and admission for IV antibiotics. Patient previously 
seen by Dr. ___ at ___, last seen >8 months 
ago. Patient c/o fevers to 101 with advancing redness. Denies 
chills, nausea, vomiting, shortness of breath, chest pain.

 
Past Medical History:
Diabetes Mellitus, Glaucoma

 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Admission Physical Exam: 
Gen: A+Ox3, NAD
Abd: Soft, NT, ND
CV: RRR
Resp: No respiratory distress
Focused lower extremity exam: DP and ___ pulses palpable. CRT <3 
seconds to all digits. Protective sensation diminished b/l.  
Ulcer plantar aspect Left foot with surrounding erythema and 
edema to ___ toe, and entire forefoot and midfoot. probing 
present deeply to bone and through foot to dorsal ulceration 
with significant necrotic tissue. + purulence, malodor. No 
crepitus. Ulcer to Right lateral foot with significant overlying 
callus. Fibrous tissue base without surrounding signs of 
infection. 

Discharge Physical Exam: 
Vitals : 98.6 167/83   78  18  98 RA
I/O ___ yesterday 1275 this AM  
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear, PERRLA 
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-tender, non-distended, active bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
GU- foley draining very clear urine.  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. Left foot wrapped in bandage with sensation and motor 
function intact to toes.
Neuro- CNs2-12 intact, motor function grossly normal  
 
Pertinent Results:
Admission Labs: 
___ 05:15PM BLOOD WBC-14.4* RBC-4.10* Hgb-11.8* Hct-37.4* 
MCV-91 MCH-28.8 MCHC-31.6* RDW-12.8 RDWSD-42.2 Plt ___
___ 05:15PM BLOOD Neuts-82.9* Lymphs-6.5* Monos-9.9 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-11.92* AbsLymp-0.94* 
AbsMono-1.42* AbsEos-0.00* AbsBaso-0.04
___ 05:15PM BLOOD Plt ___
___ 06:18PM BLOOD ___ PTT-33.2 ___
___ 05:15PM BLOOD Glucose-296* UreaN-19 Creat-1.1 Na-135 
K-4.6 Cl-100 HCO3-22 AnGap-18
___ 05:15PM BLOOD ALT-12 AST-16 AlkPhos-55 TotBili-0.5
___ 05:15PM BLOOD Albumin-4.0
___ 05:15PM BLOOD CRP-146.9*
___ 05:32PM BLOOD Lactate-1.6

Imaging: 
FINDINGS:  
FXR:  
AP, lateral, oblique views of the left foot provided.  There is 
soft tissue swelling and irregularity at the lateral aspect of 
the left forefoot at the level of the MTP joint.  Though no 
definite signs of osteomyelitis.  A spur is seen at the base of 
the fifth metatarsal and heel spurs are also present. Dorsal 
soft tissue swelling along the left foot is noted without soft 
tissue gas or radiopaque foreign body.  No fracture or 
dislocation is seen. 
IMPRESSION:  
As above.  No signs of osteomyelitis or soft tissue gas. 

CXR: 
FINDINGS:  
No focal consolidation, pleural effusion or pneumothorax 
identified.  The size the cardiomediastinal silhouette is within 
normal limits. 
IMPRESSION:  
No radiographic evidence of acute cardiopulmonary disease. 

Discharge Labs:
___ 07:15AM BLOOD WBC-8.4 RBC-3.31* Hgb-9.5* Hct-29.6* 
MCV-89 MCH-28.7 MCHC-32.1 RDW-13.8 RDWSD-44.8 Plt ___
___ 07:10AM BLOOD Glucose-153* UreaN-31* Creat-2.5* Na-140 
K-4.2 Cl-105 HCO3-20* AnGap-19
___ 03:45PM BLOOD Glucose-199* UreaN-32* Creat-2.4* Na-138 
K-4.2 Cl-106 HCO3-19* AnGap-17
___ 07:15AM BLOOD Glucose-167* UreaN-32* Creat-2.3* Na-140 
K-4.0 Cl-108 HCO3-19* AnGap-17
___ 07:15AM BLOOD Calcium-8.1* Phos-3.8 Mg-2.___ with PMHx DM, well controlled with last HbA1c 6.2 in ___ who presented to the ED with left foot cellulitis who 
underwent two surgeries (incision and drainage, then debridement 
and closre) who developed ___ after initiation vancomycin in 
the setting of urinary retention and his second operation. A 
foley was placed, he was given fluids, and his antibiotics were 
changed to ciprofloxacin and metronidazole. He was discharged on 
oral antibiotics with a foley after his creatinine stabilized 
and began to trend downward.

# Right foot cellulitis
The patient presented to the emergency department and was 
evaluated by the podiatric surgery team. The patient was found 
to have a L foot infection and was admitted to the podiatric 
surgery service. The patient was taken to the operating room on 
___ for a L foot I&D and was packed open, which the patient 
tolerated well. For full details of the procedure please see the 
separately dictated operative report. The patient was taken from 
the OR to the PACU in stable condition and after satisfactory 
recovery from anesthesia was transferred to the floor. The 
patient was taken to the operating room on ___ for a L foot 
debridement and closure, which the patient tolerated well. For 
full details of the procedure please see the separately dictated 
operative report. The patient was taken from the OR to the PACU 
in stable condition and after satisfactory recovery from 
anesthesia was transferred to the floor. His vancomycin was 
discontinued, in the setting of ___ and ___ was switched to 
ciprofloxacin and metronidazole. 

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
PWB to the heel in the left lower extremity. The patient will 
follow up with Dr. ___ per routine. A thorough 
discussion was had with the patient regarding the diagnosis and 
expected post-discharge course including reasons to call the 
office or return to the hospital, and all questions were 
answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge

___ urinary retention
On ___ his day of surgery his Cr trended up to 1.8 from baseline 
of 0.9 and then to 2.2 on ___. Vanc trough on ___ was 32, FeNA 
was 1.3%, and pt was fluid challenged with 2L on ___ with no 
improvement in Cr. Lisinopril and Vanc held on ___. He was found 
to have elevated PVR of 480 and was started on tamsulosin 
without much effect and he continued to need catheterizations. A 
foley was placed and his creatinine stabilized with continued 
fluids. He remained stable for several days, though his 
creatinine rose to 2.5 when fluids were discontinued on the 
night of ___. He was again started on 200mL/hr ___ and his 
creatinine stabilized at 2.4 and was downtrending at 2.3 on 
discharge after 14 hours of only oral fluids. Likely 
multifactorial with initial insult likely obstructive 
nephropathy versus vancomycin toxicity followed by improvement 
after Foley placement. ___ worsened again after large 
post-obstructive diuresis and prerenal injury which improved 
with IVF and oral fluids. He was discharged with his foley and 
plans for close urology/PCP follow up.

#DM II well controlled
In the hospital he was switched to an insulin sliding scale from 
his home oral regiment of glipizide and metformin. He needed 
only minimal amounts to keep his blood sugar well controlled. In 
the setting of antibiotic use and ___ he was discharged 
without any medication. His PCP was aware and agreed with the 
plan to follow up shortly after discharge to develop a new 
regimen.

TRANSITIONAL ISSUES
===================
[] He has been started on metronidazole and ciprofloxacin for 10 
days to treat his cellulitis. Anticipated treatment completion 
will be on ___.
[] Mr. ___ developed ___ in the hospital which was 
resolving, his electrolytes and creatinine will need to be 
monitored until he reaches his baseline creatinine (1.0). Cr on 
discharge was 2.3.
[] He has been discharged with a foley catheter because of acute 
urinary retention secondary to obstruction. This will need to be 
discontinued with urology and he may need additional treatment 
if retention persists. He has been started on tamsulosin to help 
with voiding.
[] Patient was hypertensive while in the hospital and needs to 
be evaluated as an outpatient.
[] Given his enlarged prostate, the patient may consider an 
outpatient discussion with his PCP regarding PSA testing (0.6 in 
___
[] He had abscess drainage and debridement with closure 
surgeries as an inpatient and has been discharged with 
restrictions to walk on his heel in a surgical shoe. He will 
need to see his surgeons to advance his level of activity.
[] Will need dressing changes every other day.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN XR (Glucophage XR) 750 mg PO DAILY 
2. GlipiZIDE 10 mg PO QAM and 5mg QPM 
3. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
5. Brimonidine Tartrate 0.15% Ophth. 1 DROP RIGHT EYE BID 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*20 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO TID 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*30 Tablet Refills:*0 
3.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation  
4.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth at bedtime Disp #*10 
Capsule Refills:*0 
5.  Brimonidine Tartrate 0.15% Ophth. 1 DROP RIGHT EYE BID  
6.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID  
7.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
8.  Simvastatin 20 mg PO QPM  
9. HELD- GlipiZIDE 10 mg PO QAM  This medication was held. Do 
not restart GlipiZIDE until you have been seen by your primary 
care physician and they have restarted this medication.
10. HELD- MetFORMIN XR (Glucophage XR) 750 mg PO DAILY  This 
medication was held. Do not restart MetFORMIN XR (Glucophage XR) 
until you have been seen by your primary care physician and they 
have restarted this medication.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
- Left Foot Infection
- Acute Kidney Injury
- Acute Urinary retention
Secondary
- Enlarged Prostate
- Diabetes Mellitus
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,
It was a pleasure taking care of you at ___. You were admitted 
to the Podiatric Surgery service for treatment of your left foot 
infection. You were taken to the OR twice during your 
hospitalization for treatment of the infection. You were given 
IV antibiotics while here and transitioned to oral medications.

You developed a kidney injury likely caused by an obstruction to 
urinary flow that was relieved by placing a foley catheter. You 
received IV fluids and your kidney function has improved. You 
should continue to use a foley catheter until you are able to 
follow up with your urologist on ___. Please continue to 
drink plenty of water as your urine output is still elevated.

You are being discharged home with the following instructions: 

ACTIVITY:
There are restrictions on activity. Please remain weight bearing 
to the heel on your L foot with a surgical shoe until your 
follow up appointment. You should keep this site elevated when 
ever possible (above the level of the heart!) 

No driving until cleared by your Surgeon.
PLEASE CALL US IMMEDIATELY FOR ANY OF THE FOLLOWING PROBLEMS:
Redness in or drainage from your leg wound(s).
New pain, numbness or discoloration of your foot or toes.
Watch for signs and symptoms of infection. These are: a fever 
greater than 101 degrees, chills, increased redness, or pus 
draining from the incision site. If you experience any of these 
or bleeding at the incision site, CALL THE DOCTOR.

Exercise:
Limit strenuous activity for 6 weeks.
No heavy lifting greater than 20 pounds for the next ___ days.
Try to keep leg elevated when able.

BATHING/SHOWERING:
You may shower immediately upon coming home, but you must keep 
your dressing CLEAN, DRY and INTACT. You can use a shower bag 
taped around your ankle/leg or hang your foot/leg outside of the 
bathtub. 

Avoid taking a tub bath, swimming, or soaking in a hot tub for 4 
weeks after surgery or until cleared by your physician.

MEDICATIONS:
Unless told otherwise you should resume taking all of the 
medications you were taking before surgery. You should also 
complete your antibiotics as directed.
Remember that narcotic pain meds can be constipating and you 
should increase the fluid and bulk foods in your diet. (Check 
with your physician if you have fluid restrictions.) If you feel 
that you are constipated, do not strain at the toilet. You may 
use over the counter Metamucil or Milk of Magnesia. Appetite 
suppression may occur; this will improve with time. Eat small 
balanced meals throughout the day. 

DIET:
Please drink plenty of water as you are still producing quite a 
bit of urine. There are no other special restrictions on your 
diet postoperatively. Poor appetite is not unusual for several 
weeks and small, frequent meals may be preferred.

FOLLOW-UP APPOINTMENT:
Be sure to keep your medical appointments. 
If a follow up appointment was not made prior to your discharge, 
please call the office on the first working day after your 
discharge from the hospital to schedule a follow-up visit. This 
should be scheduled on the calendar for seven to fourteen days 
after discharge. Normal office hours are ___ 
through ___.
PLEASE FEEL FREE TO CALL THE OFFICE WITH ANY OTHER CONCERNS OR 
QUESTIONS THAT MIGHT ARISE.

Please follow up with your primary care doctor regarding this 
admission within 1 week as you were started on a new blood 
pressure medication while in the hospital.

It was a pleasure working with you, and happy birthday!

Sincerely,

Your ___ Healthcare Team
 
Followup Instructions:
___